US09334263B2
To a solution of (4-nitrophenyl)methanesulfonyl chloride (4 g, 17 mmol) in acetonitrile (100 mL) was added a solution of ammonium carbonate (3 g, 31.3 mmol) in ammonia (50 mL). The reaction mixture was stirred for 1 h, and TLC indicated the starting material consumed completely. The organic solvent was removed under reduced pressure. Addition of water (10 mL) led to precipitate formation. The solid was collected, washed with water (2×5 mL), and dried to give (4-nitrophenyl)methanesulfonamide (3.4 g, 93%) as a white solid. MS (ES+) C7H8N2O4S requires: 216, found: 217 [M+H]+.

reactant | (4-nitrophenyl)methanesulfonyl chloride | 17 mmol, 4 g | [N+](=O)([O-])C1=CC=C(C=C1)CS(=O)(=O)Cl | C7H6ClNO4S
reactant | ammonium carbonate | 31.3 mmol, 3 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | ammonia | 50 mL | N | H3N
product | (4-nitrophenyl)methanesulfonamide | 3.4 g, 93% | [N+](=O)([O-])C1=CC=C(C=C1)CS(=O)(=O)N | C7H8N2O4S
